US04999356
To a stirred mixture, under nitrogen, of 3.0 g of 2-fluorobenzoic acid, 2-(2-fluorophenyl)hydrazide, 3.0 g of triphenylphosphine, and 25 ml of acetonitrile was added, dropwise, 1.6 g of carbon tetrachloride. The reaction mixture was stirred for 22 hours at ambient temperature and concentrated to an oil. Flash chromatography on silica gel, eluting with 25% ethyl acetate/hexane afforded α-chloro-2-fluorobenzaldehyde, (2-fluorophenyl)hydrazone as an oil.

reactant | 2-fluorobenzoic acid, 2-(2-fluorophenyl)hydrazide | 3.0 g | FC1=C(C=CC=C1)NNC(C1=C(C=CC=C1)F)=O | C13H10F2N2O
reactant | triphenylphosphine | 3.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
reactant | carbon tetrachloride | 1.6 g | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-chloro-2-fluorobenzaldehyde | ClC(C1=C(C=CC=C1)F)=O | C7H4ClFO
